US06307087B1
Synthesis of 4-nitrobiphenyl
An oven dried resealable Schlenk tube was evacuated and backfilled with argon and charged with palladium acetate (2.2 mg, 0.01 mmol, 1.0 mol %), 2-(di-tert-butylphosphino)biphenyl (6.0 mg, 0.02 mmol, 2.0 mol %), phenylboronic acid (183 mg, 1.5 mmol), potassium fluoride (174 mg, 3.0 mmol), and 1-chloro-4-nitrobenzene (158 mg, 1.0 mmol). The tube was evacuated and backfilled with argon, and THF (1 mL) was added through a rubber septum. The tube was scaled with a teflon screwcap, and the reaction mixture was stirred at room temperature until the starting aryl chloride had been completely consumed as judged by GC analysis. The reaction mixture was then diluted with ether (30 mL), filtered through celite, and concentrated. The crude material was purified by flash chromatography on silica gel to afford 196 mg (98%) of the title compound.

reactant | phenylboronic acid | 1.5 mmol, 183 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium fluoride | 3.0 mmol, 174 mg | [F-].[K+]
reactant | 1-chloro-4-nitrobenzene | 1.0 mmol, 158 mg | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
catalyst | palladium acetate | 0.01 mmol, 2.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-(di-tert-butylphosphino)biphenyl | 0.02 mmol, 6.0 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
product | 4-nitrobiphenyl | 196 mg, 98% | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=CC=C1 | C12H9NO2
